US09034866B2
Synthesis of ethyl 9-iodo-3-methyl-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate
To a solution of ethyl 9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate (500 mg, 1.27 mmol) in N,N-dimethylformamide (5 mL) was introduced potassium carbonate (175 mg, 1.27 mmol) and methyl iodide (270 mg, 1.90 mmol). The reaction mixture was warmed to 40° C. for 3 hr. After concentration of the reaction mixture in vacuo, the residue was suspended in ethyl acetate (50 mL) and washed with saturated aqueous sodium bicarbonate (2×10 mL), water (10 mL) and brine (10 mL). The organic extract was filtered at this stage to furnish the title compound (94 mg, 0.23 mmol) as a colorless solid of high purity. Following drying over sodium sulfate, the filtrate was re-filtered and concentrated in vacuo to furnish additional title compound of slightly lower purity (395 mg at 93% purity LC-UV215). This material was carried through to the next synthetic step without further purification. The higher purity batch was analysed for characterisation purposes: 1H NMR (500 MHz, CDCl3) δ 1.49 (t, J=7.09 Hz, 3H), 1.68-1.74 (m, 2H), 2.89-2.99 (m, 2H), 3.50 (td, J=7.49, 3.94 Hz, 1H), 3.60 (td, J=8.28, 3.63 Hz, 1H), 3.95 (s, 3H), 4.47 (q, J=7.04 Hz, 2H), 6.80 (d, J=7.88 Hz, 1H), 7.41 (dd, J=7.88, 1.89 Hz, 1H), 8.82 (s, 1H); M+1=409.

reactant | ethyl 9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate | 1.27 mmol, 500 mg | IC=1C=CC2=C(C3=C(NC(=N3)C(=O)OCC)C3CC2C3)C1 | C16H15IN2O2
reactant | potassium carbonate | 1.27 mmol, 175 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.90 mmol, 270 mg | CI | CH3I
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 9-iodo-3-methyl-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate | 0.23 mmol, 94 mg | IC=1C=CC2=C(C3=C(N(C(=N3)C(=O)OCC)C)C3CC2C3)C1 | C17H17IN2O2
